US06037354
To a solution of 4-(4-Fluorophenyl)-4-hydroxy-cyclohexanone (2.0 g, 9.6 mmol) and acetic acid (2.6 ml, 48 mmol) in methanol (60 ml) was added (3R)-(+)-3-(tert-butoxycarbonylamino) pyrrolidine (2.6 g, 14.4 mmol). After stirring for 2 hours at room temperature, sodium cyanoborohydride (1M in tetrahydrofuran, 14.4 ml, 14.4 mmol) was added dropwise. The reaction mixture was stirred for 45 minutes, concentrated, diluted with 10% potassium hydrogen sulfate and extracted twice with ether. The aqueous solution was basified with 1N sodium hydroxide and extracted with ethyl acetate three times. Washing with brine, drying and solvent evaporation gave an oil. Flash chromatography (silica gel, 2-propanol-ethyl acetate, 4:96 increasing to 8:92) gave 4-(3-(3R)-tert-Butoxycarbonylamino-pyrrolidin-1-yl)-1-(4-fluorophenyl)-cyclohexanol (2.0 g, 56%); 1H NMR (CDCl3)δ 7.46(m, 2H), 7.02 (m, 2H), 4.89 (m, 1H), 4.18 (m, 1H), 2.94 (m, 1H), 2.71 (m, 2H), 2.42 (m, 1H), 2.26 (m, 1H), 2.13 (m, 1H), 1.83 (m, 9H), 1.63 (m, 1H), 1.44 (s, 9H),

reactant | 4-(4-Fluorophenyl)-4-hydroxy-cyclohexanone | 9.6 mmol, 2.0 g | FC1=CC=C(C=C1)C1(CCC(CC1)=O)O | C12H13FO2
reactant | acetic acid | 48 mmol, 2.6 ml | C(C)(=O)O | C2H4O2
reactant | (3R)-(+)-3-(tert-butoxycarbonylamino) pyrrolidine | 14.4 mmol, 2.6 g | C(C)(C)(C)OC(=O)N[C@H]1CNCC1 | C9H18N2O2
reactant | sodium cyanoborohydride | 14.4 mmol, 1M, 14.4 ml | C(#N)[BH3-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
solvent | 2-propanol ethyl acetate | CC(C)O.C(C)(=O)OCC
product | 4-(3-(3R)-tert-Butoxycarbonylamino-pyrrolidin-1-yl)-1-(4-fluorophenyl)-cyclohexanol | 2.0 g, 56% | C(C)(C)(C)OC(=O)N[C@H]1CN(CC1)C1CCC(CC1)(O)C1=CC=C(C=C1)F | C21H31FN2O3
